US08497368B2
1-[1-[3-(7-Fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-eth-(E)-ylideneamino]-imidazolidine-2,4-dione
The title compound (18.0 mg, 66%) was synthesized from 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone (20.0 mg, 0.06 mmol) and 1-amino-imidazolidine-2,4-dione (28.2 mg, 0.19 mmol) using the same procedure as described in the synthesis of example 72. 1H-NMR (400 MHz, DMSO-d6) δ ppm 11.45 (bs, 1H), 9.41 (s, 1H), 8.93 (dd, 1H), 8.42 (d, 1H), 8.21 (d, 1H), 7.83 (d, 1H), 7.54 (dd, 1H), 6.26 (s, 2H), 4.56 (s, 2H), 2.45 (s, 3H). LCMS (method B): [MH]+=420, tR=1.95 min.

reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone | 0.06 mmol, 20.0 mg | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC2=NC=C(N=C21)C(C)=O | C16H11FN6O
reactant | 1-amino-imidazolidine-2,4-dione | 0.19 mmol, 28.2 mg | NN1C(NC(C1)=O)=O | C3H5N3O2
product | 1-[1-[3-(7-Fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-eth-(E)-ylideneamino]-imidazolidine-2,4-dione | 18.0 mg, 66% | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC2=NC=C(N=C21)\C(\C)=N\N2C(NC(C2)=O)=O | C19H14FN9O2
